US06277871B1
N-t-Butoxycarbonyl-2(S)-phenoxymethylpyrrolidine
A solution of N-t-butoxycarbonyl-2-hydroxymethylpyrrolidine (0.80 g, 4.00 mmol), triphenylphosphine (2.10 g, 8.00 mmol), and phenol (1.13 g, 12.00 mmol) in 10 mL of 1,2-dichloromethane was cooled in an ice bath and treated with a solution of diethylazodicarboxylate (1.26 mL, 8.00 mmol) in 6 mL of toluene. The cooling bath was removed and the solution was stirred for 70 hours at ambient temperature. The mixture was diluted with ether and extracted with 4N aqueous sodium hydroxide, dried (Na2SO4), filtered and concentrated. The residue was purified by column chromatography on silica gel to provide (0.99 g, 89%) of the title compound.

reactant | N-t-butoxycarbonyl-2-hydroxymethylpyrrolidine | 4.00 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1C(CCC1)CO | C10H19NO3
reactant | triphenylphosphine | 8.00 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phenol | 12.00 mmol, 1.13 g | C1(=CC=CC=C1)O | C6H6O
reactant | diethylazodicarboxylate | 8.00 mmol, 1.26 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | N-t-Butoxycarbonyl-2(S)-phenoxymethylpyrrolidine | 0.99 g, 89% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=CC=C1 | C16H23NO3
